US06071925
(S)-1-Indan-1-yl-4-phenylamino-piperidine-4-carbonitrile
(S)-1-Indan-1-yl-piperidine-4-one (31 mmol) was dissolved in acetic acid (28 ml). Aniline (33 mmol) and trimethylsilylcyanide (31 mmol) were added and the mixture was stirred for 45 min. at room temperature. The reaction mixture was poured into cold ammonia solution (water/28% ammonia, 50 ml/30 ml). The solution was adjusted to pH 10 and extracted with methylene chloride. Organic phases were pooled, dried with sodium sulfate and concentrated. Crystallization from diethylether yielded the desired product as a solid. 8.1 g (80%) of (S)-1-indan-1-yl-4-phenylamino-piperidine-4-carbonitrile, m.p. 157-160° C. and MS: m/e=318.3 (M+H+).

reactant | (S)-1-Indan-1-yl-piperidine-4-one | 31 mmol | [C@@H]1(CCC2=CC=CC=C12)N1CCC(CC1)=O | C14H17NO
reactant | Aniline | 33 mmol | NC1=CC=CC=C1 | C6H7N
reactant | trimethylsilylcyanide | 31 mmol | C[Si](C)(C)C#N | C4H9NSi
reactant | ammonia | 50 ml | N | H3N
solvent | acetic acid | 28 ml | C(C)(=O)O | C2H4O2
product | (S)-1-Indan-1-yl-4-phenylamino-piperidine-4-carbonitrile | [C@@H]1(CCC2=CC=CC=C12)N1CCC(CC1)(C#N)NC1=CC=CC=C1 | C21H23N3
